US05728686
c) 1-Benzyl-3-methylxanthine hydrochloride
The unpurified 1-benzyl-7-ethoxymethyl-3-methylxanthine was treated with 1000 ml of 5N hydrochloric acid and stirred at 60° C. for 6 hours. The precipitated solid was filtered off with suction, washed with ethanol and dried under reduced pressure (164 g). It was possible from the mother liquor, after concentrating to approximately 50%, to isolate a further 35 g of the desired product.

reactant | 1-benzyl-7-ethoxymethyl-3-methylxanthine | C(C1=CC=CC=C1)N1C(=O)N(C=2N=CN(C2C1=O)COCC)C | C16H18N4O3
reactant | hydrochloric acid | 5N, 1000 ml | Cl | ClH
product | 1-Benzyl-3-methylxanthine hydrochloride | 35 g | Cl.C(C1=CC=CC=C1)N1C(=O)N(C=2N=CNC2C1=O)C | InChI=1S/C13H12N4O2.ClH/c1-16-11-10(14-8-15-11)12(18)17(13(16)19)7-9-5-3-2-4-6-9;/h2-6,8H,7H2,1H3,(H,14,15);1H
